US08119563B2
Step D Synthesis of ethyl 4-hydroxy-1-{[4-(2-methyl(1,2,3,4-tetrazol-5-yl))phenyl]methyl}piperidine-4-carboxylate as an Intermediate
A solution of 9.6 grams (0.032 mole) of 4-hydroxy-1-{[4-(2-methyl(1,2,3,4-tetrazol-5-yl))phenyl]methyl}piperidine-4-carbonitrile in 200 mL of ethanol was saturated with gaseous hydrogen chloride, and then it was stirred at 55° C. for about 20 hours. The reaction mixture was allowed to cool and then it was poured onto 500 mL of ice. The resultant mixture was basified with 50% sodium hydroxide and extracted once with 300 mL of ethyl acetate. The extract was washed three times with 80 mL brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure to a residue, yielding 5.14 grams of the subject compound. The NMR spectrum was consistent with the proposed structure.

reactant | 4-hydroxy-1-{[4-(2-methyl(1,2,3,4-tetrazol-5-yl))phenyl]methyl}piperidine-4-carbonitrile | 0.032 mole, 9.6 grams | OC1(CCN(CC1)CC1=CC=C(C=C1)C=1N=NN(N1)C)C#N | C15H18N6O
reactant | hydrogen chloride | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethanol | 200 mL | C(C)O | C2H6O
product | ethyl 4-hydroxy-1-{[4-(2-methyl(1,2,3,4-tetrazol-5-yl))phenyl]methyl}piperidine-4-carboxylate | 5.14 grams | OC1(CCN(CC1)CC1=CC=C(C=C1)C=1N=NN(N1)C)C(=O)OCC | C17H23N5O3
